US08802670B2
To a solution of piperazine (1 g) and triethylamine (1.78 mL) in dichloromethane (20 mL) at 0° C. was added dropwise trifluoromethanesulfonyl chloride (1.24 mL). The reaction mixture was stirred at room temperature for 16 h and then quenched with water (20 mL) and extracted into dichloromethane (2×40 mL). The combined organic layers were washed with saturated aqueous brine solution (2×40 mL), dried (MgSO4) and concentrated to afford 1-trifluoromethanesulfonyl-piperazine as a pale yellow solid (1.92 g, 76%).

reactant | piperazine | 1 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 1.78 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonyl chloride | 1.24 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-trifluoromethanesulfonyl-piperazine | 1.92 g, 76% | FC(S(=O)(=O)N1CCNCC1)(F)F | C5H9F3N2O2S
